US07960567B2
Methyl 2-(3-chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate (20.4).
Under an N2 atmosphere, 2-(3-chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid (0.331 0.915 mmol) was dissolved in methanol and concentrated sulfuric acid (3 drops) was added. The reaction was heated to reflux for 2.5 h, cooled to room temperature and concentrated in vacuo. The residue was partitioned between saturated NaHCO3 (aq) and ethyl acetate. The layers were separated and the aqueous layer washed with additional ethyl acetate (2×). The organics were combined, dried (Na2SO4), and concentrated in vacuo. Flash column chromatography of the residue, eluting 0% to 3% methanol in dichloromethane, afforded title compound. LC-MS ESI (pos.) m/z: 376.0 (M+H).

reactant | 2-(3-chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid | 0.915 mmol | ClC=1C=C(C=CC1OC1=C(C2=C(NC(=N2)C)C=C1)[N+](=O)[O-])CC(=O)O | C16H12ClN3O5
reactant | methanol | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-(3-chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetate | ClC=1C=C(C=CC1OC1=C(C2=C(NC(=N2)C)C=C1)[N+](=O)[O-])CC(=O)OC | C17H14ClN3O5
